US08134001B2
In a manner similar to the method described in example 94c, trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzoic acid methyl ester (2.7 g, 6.76 mmol) was reacted with LiAlH4 (1 M, 6.76 mL, 6.76 mmol) in ethyl ether, then oxidized with activated MnO2 (4.64 g, 54 mmol) in dichloromethane to give trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzaldehyde as a white solid (Yield 1.12 g, 44%).

reactant | trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzoic acid methyl ester | 6.76 mmol, 2.7 g | COC(C1=C(C=CC(=C1)Cl)O[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C20H31ClO4Si
reactant | LiAlH4 | 6.76 mmol, 1 M, 6.76 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | MnO2 | 54 mmol, 4.64 g | O=[Mn]=O
product | trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzaldehyde | Yield 1.12 g, 44% | C(C)(C)(C)[Si](O[C@@H]1CC[C@H](CC1)OC1=C(C=O)C=C(C=C1)Cl)(C)C | C19H29ClO3Si
